US07157487B2
Ethyl (5-chloro-4-(5-fluoro-2-benzothiazolyl)amino-2-fluorophenyl)acetate (298 mg, 0.78 mmol) was dissolved in THF (5 ml). To the resulting solution was added 0.5N NaOH (5.0 ml, 2.50 mmol). The resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was poured in ice-1N HCl. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (5-chloro-4-(5-fluoro-2-benzothiazolyl)amino-2-fluorophenyl)acetic acid (237 mg, 86%) as a pale yellow solid.

reactant | Ethyl (5-chloro-4-(5-fluoro-2-benzothiazolyl)amino-2-fluorophenyl)acetate | 0.78 mmol, 298 mg | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC=1SC2=C(N1)C=C(C=C2)F | C17H13ClF2N2O2S
reactant | NaOH | 2.50 mmol, 0.5N, 5.0 ml | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (5-chloro-4-(5-fluoro-2-benzothiazolyl)amino-2-fluorophenyl)acetic acid | 237 mg, 86% | ClC=1C(=CC(=C(C1)CC(=O)O)F)NC=1SC2=C(N1)C=C(C=C2)F | C15H9ClF2N2O2S
